US07968711B2
4-Bromo-2-(3,5-difluorophenyl)-5-hydroxypyridazin-3-one
4,5-Dibromo-2-(3,5-difluorophenyl)pyridazin-3-one (1.5 g, 0.0041 moles) was suspended in ethanol (50 ml) and potassium hydroxide (0.8 g, 0.0123 moles) was added in water (8 ml). Refluxed for 4 hours with stirring. Evaporated to a low bulk and diluted with water. Acidified to pH2 with conc. hydrochloric acid and extracted with ethyl acetate. Washed with water and dried with anhydrous magnesium sulphate. Filtered and evaporated the filtrate to give an orange solid. Triturated with diethyl ether and dried in a desiccator to give the product as a cream solid. (0.7 g, 56%)

reactant | 4,5-Dibromo-2-(3,5-difluorophenyl)pyridazin-3-one | 0.0041 moles, 1.5 g | BrC=1C(N(N=CC1Br)C1=CC(=CC(=C1)F)F)=O | C10H4Br2F2N2O
reactant | potassium hydroxide | 0.0123 moles, 0.8 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 8 ml | O | H2O
product | 4-Bromo-2-(3,5-difluorophenyl)-5-hydroxypyridazin-3-one | BrC=1C(N(N=CC1O)C1=CC(=CC(=C1)F)F)=O | C10H5BrF2N2O2
